US08246991B2
Preparation of N-Cbz-valylprolylglycine (Cbz-NH-[VPG]-CO2H):
To a solution of N-Cbz-valylprolylglycine methyl ester (Cbz-NH-[VPG]-CO2CH3) (4.2 g, 10 mmol) in THF (20 mL) is added a 1M aqueous solution of LiOH (11 mL, 11 mmol) and the solution is stirred overnight. The resulting solution is acidified to pH about 7 with 1M HCl and the contents of the flask partitioned between water (30 mL) and ethyl acetate (30 mL). The organic phase is extracted with brine, dried over Na2SO4 then concentrated in vacuo to afford the desired compound.

reactant | N-Cbz-valylprolylglycine methyl ester | 10 mmol, 4.2 g | COC(CNC([C@H]1N(CCC1)C([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)=O)=O | C21H29N3O6
reactant | LiOH | 11 mmol, 11 mL | [Li+].[OH-]
reactant | HCl | 1M | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N-Cbz-valylprolylglycine | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)N1[C@H](C(=O)NCC(=O)O)CCC1 | C20H27N3O6
